US07354933B2
0.015 g of sodium hydride is added to a solution of 0.175 g of 5,5-dimethyl-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione in 2 ml of anhydrous dimethylformamide, under an inert atmosphere of argon at a temperature in the region of 20° C. Stirring is maintained at this temperature for 30 minutes. A solution of 0.185 g of 2-ethoxy-4-(bromomethyl)pyridine in 2 ml of anhydrous dimethylformamide is added, followed by addition of ice-cold water after reaction for 10 minutes. The reaction mixture is placed on a cartridge 37 mm in diameter packed with 65 g of octadecyl-grafted 40-60 μm silica conditioned successively with the mixture (water/acetonitrile) (5/95) (v/v) and then with the mixture (water/acetonitrile) (95/5) (v/v). The elution is performed with a mixture (water/acetonitrile) (95/5) (v/v) over 20 minutes, followed by a linear gradient of from 5% to 95% acetonitrile over 60 minutes, at a flow rate of 10 ml/minute. The fractions between 700 and 760 ml are concentrated under reduced pressure. 0.145 g of 5,5-dimethyl-1-(2-ethoxypyrid-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione is thus obtained, the characteristics of which product are as follows:

reactant | sodium hydride | 0.015 g | [H-].[Na+]
reactant | 5,5-dimethyl-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.175 g | CC1(C(N(C(N1)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C12H11F3N2O3
reactant | 2-ethoxy-4-(bromomethyl)pyridine | 0.185 g | C(C)OC1=NC=CC(=C1)CBr | C8H10BrNO
reactant | water acetonitrile | O.C(C)#N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5,5-dimethyl-1-(2-ethoxypyrid-4-ylmethyl)-3-(4-trifluoromethoxyphenyl)imidazolidine-2,4-dione | 0.145 g | CC1(C(N(C(N1CC1=CC(=NC=C1)OCC)=O)C1=CC=C(C=C1)OC(F)(F)F)=O)C | C20H20F3N3O4
